US08865682B2
Methyl 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoate (500 mg, 1.32 mmol) was added to a mixture of 1M NaOH (4 mL, 4 mmol), THF (8 mL) and MeOH (20 mL). The mixture was heated at 58° C. for 5 hours, cooled to room temp., and poured into 200 mL of water. 2M HCl was added to bring pH down to 3. The precipitates were filtered, washed with water and dried in vacuo to give 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoic acid as an orange/red solid. Yield: 480 mg, quantitative.

reactant | Methyl 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoate | 1.32 mmol, 500 mg | FC1=CC=C2/C(/C(NC2=C1)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(C(=O)OC)C=C1 | C22H18FNO4
reactant | NaOH | 4 mmol, 1M, 4 mL | [OH-].[Na+]
reactant | THF | 8 mL | C1CCOC1 | C4H8O
reactant | HCl | 2M | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
product | 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoic acid | FC1=CC=C2/C(/C(NC2=C1)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(C(=O)O)C=C1 | C21H16FNO4
